US04997955
60 g of paraformaldehyde are added to a solution of 6.0 g of acetic acid and 6.75 g of dimethylamine in 800 g of methanol, after which 348 g of dimethyl 2-formylsuccinate are added dropwise in the course of 20 minutes. The mixture is stirred for 7 hours at 50° C. and allowed to cool, and methanol and methyl formate are distilled off. The residue is taken up in ethyl acetate and the solution is washed with 100 g of 10% strength sulfuric acid and distilled. 305 g of isomer-free dimethyl itaconate of boiling point 42°-43° C. under 0.3-0.4 mbar are obtained, corresponding to a yield of 96.4% of theory.

reactant | paraformaldehyde | 60 g | C=O | CH2O
reactant | dimethyl 2-formylsuccinate | 348 g | C(=O)C(C(=O)OC)CC(=O)OC | C7H10O5
solvent | methanol | 800 g | CO | CH4O
catalyst | acetic acid | 6.0 g | C(C)(=O)O | C2H4O2
catalyst | dimethylamine | 6.75 g | CNC | C2H7N
product | dimethyl itaconate | 305 g, yield of 96.4% | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
